US07569579B2
Preparation 13C: 1,1-dimethylethyl {[(1R,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}carbamate
1,1-dimethylethyl [((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]carbamate (8.0 g, 21.7 mmol), accessed via the method of Preparation 11B, was combined with 10% palladium on activated carbon (0.8 g) in ethyl alcohol and hydrogenated under 1 atm H2(g) for 2.5 h at ambient temperature. The catalyst was filtered off through celite and the filtrate concentrated to a colorless oil. The crude material was purified by flash chromatography (SiO2, eluted with EtOAc/hexanes (4:6)) to give the title compound (5.8 g, 20.9 mmol, 96%) as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.35-7.25 (m, 5H), 3.52-3.48 (m, 1H), 3.35-3.30 (m, 1H), 3.23-3.19 (m, 1H), 3.10-3.07 (m, 1H), 1.45-1.37 (m, 11H), 1.04-1.04 (m, 1H), 0.87-0.84 (m, 1H). LCMS m/z 300.1 (M+Na).

reactant | 1,1-dimethylethyl [((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]carbamate | 21.7 mmol, 8.0 g | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CNC(OC(C)(C)C)=O | C23H29NO3
catalyst | palladium on activated carbon | 0.8 g | [Pd] | Pd
solvent | ethyl alcohol | C(C)O | C2H6O
product | 1,1-dimethylethyl {[(1R,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}carbamate | 20.9 mmol, 5.8 g, 96% | OC[C@H]1[C@](C1)(C1=CC=CC=C1)CNC(OC(C)(C)C)=O | C16H23NO3
